US07569599B2
(3S)-1-Diphenylmethyl-3-hydroxypyrrolidine
(3S)-3-Hydroxypyrrolidine (2.0 g) was dissolved in acetonitrile (10.0 mL) under cooling with ice. Triethylamine (4.8 mL) was added to the solution, and bromodiphenylmethane (5.7 g) in acetonitrile (10.0 mL) was added dropwise to the mixture, followed by stirring at room temperature for 4.5 hours. After completion of reaction, the insoluble material was removed through filtration, and water and toluene were added to the filtrate, whereby the organic layer was extracted. The formed aqueous layer was again extracted with toluene, and the organic layers were combined together, washed with saturated brine, and dried over sodium sulfate. The drying agent was removed through filtration, and the filtrate was concentrated under reduced pressure, to thereby yield crystalline residue. The residue was subjected to silica gel chromatography, to thereby give the target compound (5.2 g, yield 89.7%). The thus-obtained compound can be crystallized through treatment with hexane-ethyl acetate, alcohol-water, and so on.

reactant | (3S)-3-Hydroxypyrrolidine | 2.0 g | O[C@@H]1CNCC1 | C4H9NO
reactant | Triethylamine | 4.8 mL | C(C)N(CC)CC | C6H15N
reactant | bromodiphenylmethane | 5.7 g | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
solvent | acetonitrile | 10.0 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10.0 mL | C(C)#N | C2H3N
product | (3S)-1-Diphenylmethyl-3-hydroxypyrrolidine | 5.2 g, yield 89.7% | C1(=CC=CC=C1)C(N1C[C@H](CC1)O)C1=CC=CC=C1 | C17H19NO
